US04100167
A mixture of acetonitrile (8.2 g, 0.2 mole), phosphorous acid (32.8 g, 0.4 mole), ISOPAR-M (20 g), and the above wetting agents (0.5 g each) was reacted for 3 hours at 150° C. The mixture was cooled to 80° C and water (50 g) was added. The colorless emulsion broke to give colorless granular 1-amino-1,1-diphosphono ethane, 29 g (71% yield), m.p. 270°-271° C (decomposition).

reactant | acetonitrile | 0.2 mole, 8.2 g | C(C)#N | C2H3N
reactant | phosphorous acid | 0.4 mole, 32.8 g | P(O)(O)O | H3O3P
solvent | water | 50 g | O | H2O
product | 1-amino-1,1-diphosphono ethane | 71% yield | NC(C)(P(=O)(O)O)P(=O)(O)O | C2H9NO6P2
